US04677115
5,6-Dihydro-4-(2-hydroxyethoxy)thieno[2,3-b]thiopyran-2-sulfonamide
5,6-Dihydro-4-hydroxythieno[2,3-b]thiopyran-2-sulfonamide, (2.0 g, 0.008 mole) was dissolved in ethylene glycol (20 ml), treated with concentrated hydrochloric acid (10 drops), and stirred at room temperature for 24 hours. The mixture was poured into water (100 ml) and extracted repeatedly with ethyl acetate. Evaporation of the washed and dried ethyl acetate extract left the crude product as an oily solid. Trituration with 10% ethanol in ether followed by recrystallization of the obtained solid (1.35 g) from ethyl acetate gave 885 mg (37%) of product, m.p. 110°-113° C.

reactant | 5,6-Dihydro-4-hydroxythieno[2,3-b]thiopyran-2-sulfonamide | 0.008 mole, 2.0 g | OC1=C2C(SCC1)SC(=C2)S(=O)(=O)N | C7H9NO3S3
reactant | water | 100 ml | O | H2O
reactant | ethylene glycol | 20 ml | C(CO)O | C2H6O2
catalyst | hydrochloric acid | 10 drops | Cl | ClH
product | 5,6-Dihydro-4-(2-hydroxyethoxy)thieno[2,3-b]thiopyran-2-sulfonamide | 885 mg, 37% | OCCOC1=C2C(SCC1)SC(=C2)S(=O)(=O)N | C9H13NO4S3
